US04923868
Ethyl 8,9-difluoro-1,2,3,4-tetrahydro-6-oxo-6H-benzo[c]quinolizine-5-carboxylate
A mixture of 0.5 g of ethyl 8,9-difluoro-6-oxo-6H-benzo[c]quinolizine-5-carboxylate and 0.5 g of 10% palladium-on-carbon in 50 ml of trifluoroacetic acid was shaken under 40 lb. of hydrogen in a Parr apparatus for 2 hours. The mixture was filtered and the solvent evaporated. The concentrate was partitioned between aqueous sodium bicarbonate and dichloromethane. The organic layer was dried followed by adding hexanes to give 0.45 g of the desired product, mp 166°-168° c.

reactant | ethyl 8,9-difluoro-6-oxo-6H-benzo[c]quinolizine-5-carboxylate | 0.5 g | FC=1C(=CC2=C(C(C(=C3C=CC=CN23)C(=O)OCC)=O)C1)F | C16H11F2NO3
reactant | hydrogen | [H][H] | H2
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
catalyst | palladium-on-carbon | 0.5 g | [Pd] | Pd
product | Ethyl 8,9-difluoro-1,2,3,4-tetrahydro-6-oxo-6H-benzo[c]quinolizine-5-carboxylate | 0.45 g | FC=1C(=CC2=C(C(C(=C3CCCCN23)C(=O)OCC)=O)C1)F | C16H15F2NO3
